US08110687B2
A solution of N-{1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}acetamide (1.07 g, 4.11 mmol) in 6N HCl (20 mL) was heated at 110° C. for 18 h, then allowed to cool to rt and diluted with water. The mixture was washed with EtOAc and the aqueous solution was neutralized by the addition of 1N NaOH and washed again with EtOAc. The aqueous solution was further basified to pH 10-11 by addition of 1N NaOH and extracted with EtOAc (2×). The extracts were dried over Na2SO4, filtered and concentrated to give 3-(1-amino-1-methylethyl)-5-(trifluoromethyl)aniline as a brown oil (285 mg, 31.8%).

reactant | N-{1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}acetamide | 4.11 mmol, 1.07 g | NC=1C=C(C=C(C1)C(F)(F)F)C(C)(C)NC(C)=O | C12H15F3N2O
solvent | HCl | 6N, 20 mL | Cl | ClH
solvent | water | O | H2O
product | 3-(1-amino-1-methylethyl)-5-(trifluoromethyl)aniline | 285 mg, 31.8% | NC(C)(C)C=1C=C(N)C=C(C1)C(F)(F)F | C10H13F3N2
